US07919509B2
a) Preparation of 7-hydroxy-8-propyl-4-(trifluoromethyl)-2H-chromen-2-one
2-propylbenzene-1,3-diol (J. Med. Chem., 38, pp 4411-4432, 1995) (3.65 g, 24.0 mmol), zinc chloride (3.60 g, 26.4 mmol), and ethyl 4,4,4-trifluoroacetoacetate (4.86 g, 26.4 mmol) were stirred overnight at 110° C. The reaction solution was added with water and extracted with ethyl acetate. Subsequently, the organic layer was washed with saturated saline, dried using anhydrous sodium sulfate, and concentrated under vacuum. The obtained residue was purified using silica-gel chromatography (chloroform) and then recrystallized with chloroform, and 5.01 g of the title compound (yield 77%) was obtained as pale-brown crystalline powder.

reactant | 2-propylbenzene-1,3-diol | C(CC)C1=C(C=CC=C1O)O | C9H12O2
reactant | ethyl 4,4,4-trifluoroacetoacetate | 26.4 mmol, 4.86 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
catalyst | zinc chloride | 26.4 mmol, 3.60 g | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 7-hydroxy-8-propyl-4-(trifluoromethyl)-2H-chromen-2-one | 5.01 g, yield 77% | OC1=CC=C2C(=CC(OC2=C1CCC)=O)C(F)(F)F | C13H11F3O3
